US09376443B2
7-Chloro-3-{6-[1-trimethylsilyloxy-1-cyclopentyl]pyridin-2-ylmethyl}-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine
A solution of 7-chloro-3-{6-[1-hydroxy-1-cyclopentyl]pyridin-2-ylmethyl}-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine (0.5 g, 1.5 mmol) in dry THF (15 mL) at room temperature was treated with trimethylsilyl chloride (0.38 mL, 3.0 mmol) then triethylamine (0.42 mL, 3.0 mmol); stirred at 35° C. overnight, treated with additional quantities of trimethylsilyl chloride (0.19 mL, 1.5 mmol) then triethylamine (0.21 mL, 1.5 mmol) and stirred at 35° C. for 24 h. The mixture was poured into water (60 mL), extracted with EtOAc (×2), concentrated in vacuo and purified by chromatography (SiO2:isohexane EtOAc (3:1)) to give the title compound (0.55 g, 88%); NMR δH (400 MHz, DMSO) 7.78 (1H, t, J 7.8 Hz), 7.59 (2H, br s), 7.43 (1H, d, J 7.8 Hz), 7.19 (1H, d, J 7.8 Hz), 5.79 (2H, s), 1.68 (7H, m), 1.40 (2H, m), −0.11 (9H, s); (M+H)+ 418.

reactant | 7-chloro-3-{6-[1-hydroxy-1-cyclopentyl]pyridin-2-ylmethyl}-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine | 1.5 mmol, 0.5 g | ClC=1C2=C(N=C(N1)N)N(N=N2)CC2=NC(=CC=C2)C2(CCCC2)O | C15H16ClN7O
reactant | trimethylsilyl chloride | 3.0 mmol, 0.38 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 3.0 mmol, 0.42 mL | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 1.5 mmol, 0.19 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 1.5 mmol, 0.21 mL | C(C)N(CC)CC | C6H15N
reactant | water | 60 mL | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 7-Chloro-3-{6-[1-trimethylsilyloxy-1-cyclopentyl]pyridin-2-ylmethyl}-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine | 0.55 g, 88% | ClC=1C2=C(N=C(N1)N)N(N=N2)CC2=NC(=CC=C2)C2(CCCC2)O[Si](C)(C)C | C18H24ClN7OSi
